US09120749B2
(S)-tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one (301 mg, 1.02 mmol) was reacted with (S)-tert-butyl 1-(5-aminopyridin-2-yl)piperidin-3-ylcarbamate (600 mg, 2.05 mmol) to obtain the desired product (168 mg, 30%) as an purple semi-solid.: ESI MS m/z 554 [C27H32BrN5O3+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one | 1.02 mmol, 301 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)Cl | C12H9BrClNO
reactant | (S)-tert-butyl 1-(5-aminopyridin-2-yl)piperidin-3-ylcarbamate | 2.05 mmol, 600 mg | NC=1C=CC(=NC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C15H24N4O2
product | (S)-tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 168 mg, 30% | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC=1C=CC(=NC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C27H32BrN5O3
